US07598391B2
1,1-Dicyclohexyl-3-thiazol-2-yl-urea
To a solution of aminothiazole (50 mg, 0.5 mmol) in dichloromethane was added carbonyldiimidazole (81 mg, 0.5 mmol) and the solution stirred 2 h at room temperature. Dicyclohexylamine (1 eq) was then added and the reaction stirred overnight at room temperature. The reaction mixture is then diluted with ethyl acetate (8 mL), washed successively with 10% sodiumhydrogensulphate (3 mL), water (3 mL), dried over magnesium sulphate, concentrated in vacuo, and the residue purified by HPLC (Gilson 1, X-terra column; 0-100% CH3CN/H2O/0.1% TFA; 15 min; flow 50 ml/min) to give the title product (52 mg).

reactant | aminothiazole | 0.5 mmol, 50 mg | C1=CSC(=N1)N | C3H4N2S
reactant | carbonyldiimidazole | 0.5 mmol, 81 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Dicyclohexylamine | 1 eq | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dicyclohexyl-3-thiazol-2-yl-urea | 52 mg | C1(CCCCC1)N(C(=O)NC=1SC=CN1)C1CCCCC1 | C16H25N3OS
